US04447617
It has also been reported [see J. Amer. Chem. Soc. 49, 1748 (1927)] that treatment of 2-mercapto-6-nitrobenzothiazole with concentrated aqueous ammonia under pressure at 160° C. followed by crystallization from alcohol and treatment with bone black gives 2-amino-6-nitrobenzothiazole in small yield.

reactant | 2-mercapto-6-nitrobenzothiazole | SC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C7H4N2O2S2
reactant | ammonia | N | H3N
product | 2-amino-6-nitrobenzothiazole | NC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C7H5N3O2S
